US08895566B2
DIEA (11.7 mL, 67.4 mmol) and HBTU (7.03 g, 18.5 mmol) were added to a solution of 6-bromobenzo[d]isothiazole-3-carboxylic acid (4.35 g, 16.9 mmol) and N,O-dimethylhydroxylamine hydrochloride (2.14 g, 21.9 mmol) in DMF (100 mL). The reaction was stirred at room temperature for 2 hours. The mixture was partitioned between water and EtOAc. The organic layer was washed with aqueous NaHCO3 solution and brine, dried and concentrated. The residue was purified by column chromatography (hexane:EtOAc, 3:1) to give 6-bromo-N-methoxy-N-methylbenzo[d]isothiazole-3-carboxamide (4.60 g, 91%) as a solid. 1H NMR (CDCl3, 400 MHz) δ □8.12 (m, 2H), 8.59 (d, J=8.8 Hz, 1H), 3.83 (s, 3H), 3.49 (s, 3H).

reactant | DIEA | 67.4 mmol, 11.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 18.5 mmol, 7.03 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-bromobenzo[d]isothiazole-3-carboxylic acid | 16.9 mmol, 4.35 g | BrC1=CC2=C(C(=NS2)C(=O)O)C=C1 | C8H4BrNO2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 21.9 mmol, 2.14 g | Cl.CNOC
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-bromo-N-methoxy-N-methylbenzo[d]isothiazole-3-carboxamide | 4.60 g, 91% | BrC1=CC2=C(C(=NS2)C(=O)N(C)OC)C=C1 | C10H9BrN2O2S
